US08349824B2
A mixture of ethyl 5-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate (1.2 g, 3.05 mmol) and lithium hydroxide hydrate (512 mg, 12.2 mmol) in methanol (40 ml) and water (10 ml) was stirred for 4 hours at 50° C. The solvent was evaporated, the residue was dissolved with water and acidified to pH=0 using hydrochloric acid 37%. The precipitated solid was filtered off and washed with water and dried in vacuo affording 5-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (929 mg, 83.4%) as a light brown solid. mp: >250° C., MS: m/z=362.7/364.8 (M+H+)

reactant | ethyl 5-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate | 3.05 mmol, 1.2 g | BrC1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)OCC)=N1 | C14H13BrN6O3
reactant | lithium hydroxide hydrate | 12.2 mmol, 512 mg | O.[OH-].[Li+]
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 5-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 929 mg, 83.4% | BrC1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C12H9BrN6O3
